US05234894
Preparation of 1-cyano-1-(3-trifluoromethylphenyl)-3-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-2-butanone (Compound No. 132)
3.0 Grams of ethyl 2-[4-(2-chloro-5-trifluoromethyl-2-pyridyloxy)-phenoxy]-propionate and 1.42 g of α-(3-trifluoromethylphenyl)-acetonitrile were added to a solution of 0.37 g of metal sodium in 50 ml of ethanol, and refluxed under heat for 3 hours. The reaction mixture was added to an aqueous solution of dilute hydrochloric acid, and the mixture was subjected to extraction with chloroform, the extract was concentrated. The residue was separated and purified by column chromatography to give 2.28 g of a compound No. 132 which was a light yellow solid (melting point 70°-71° C.). The yield was 56.0%. The compound No. 132 was analyzed, and the results are shown in Tables 1 to 23.

reactant | ethyl 2-[4-(2-chloro-5-trifluoromethyl-2-pyridyloxy)-phenoxy]-propionate | ClC1(NC=C(C=C1)C(F)(F)F)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C17H17ClF3NO4
reactant | α-(3-trifluoromethylphenyl)-acetonitrile | 1.42 g | FC(C=1C=C(C=CC1)CC#N)(F)F | C9H6F3N
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-cyano-1-(3-trifluoromethylphenyl)-3-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-2-butanone | 2.28 g, yield was 56.0% | C(#N)C(C(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1Cl)C(F)(F)F)=O)C1=CC(=CC=C1)C(F)(F)F | C24H15ClF6N2O3
